US09284513B2
The invention's composition of matter, and the (Z)-4,8-dimethyl-2,7-nonadien-4-ol essentially pure, can be prepared according to several methods. As reported in the experimental part, one possibility is the addition of prop-1-yn-1-yl Grignard such as prop-1-yn-1-yl magnesium bromide to 6-methyl-5-hepten-2-one. The triple bond of 4-8-dimethylnon-7-en-2-yn-4-ol obtained is then reduced under appropriate conditions in to order to provide selectively (Z)-4,8-dimethyl-2,7-nonadien-4-ol (e.g. Lindlar catalyst). The same intermediate could also be synthesized by the addition of propyne (or allene) to 6-methyl-5-hepten-2-one under basic conditions as described in DE2228333. Another approach starting from the same starting material as above passes through the acetylene addition providing the 3,7-dimethyloct-6-en-1-yn-3-ol then the methylation of the triple bond and finally, as previously described, the stereoselective hydrogenation of the triple bond (e.g. Lindlar catalyst) leading to (Z)-4,8-dimethyl-2,7-nonadien-4-ol. The addition of acetylene or ethynyl Grignard to 6-methyl-5-hepten-2-one is well documented (as non limited literatures: WO 20075025 or J. Am. Chem. Soc. 2002, 124 (18), 5025). A more direct alternative already reported in the literature (U.S. Pat. No. 2,838,576, DE 1005952, Comptes Rendus Hebdomadaires des Seances de l'Academie des Sciences 1955, 240, 631) is the addition of the prop-1-en-1-yl Grignard to 6-methyl-5-hepten-2-one.

reactant | propyne | C#CC | C3H4
reactant | allene | C=C=C | C3H4
reactant | 6-methyl-5-hepten-2-one | CC(=CCCC(C)=O)C | C8H14O
reactant | acetylene | C#C | C2H2
product | 3,7-dimethyloct-6-en-1-yn-3-ol | CC(C#C)(CCC=C(C)C)O | C10H16O
